US08212068B2
8-Methyl-1-nonanol (752 mg, 4.74 mmol), homovanillic acid (907 mg, 4.98 mmol) and Novozyme 435 (100 mg) were measured and placed in a flask (25 ml). Toluene (5 ml) and anhydrous magnesium sulfate (1 g) were added, and the mixture was stirred with heating in an oil bath at 50° C. for 16 hr. The reaction mixture was allowed to cool to room temperature, toluene (25 ml) was added, and Novozyme 435 and the precipitated insoluble material were removed by filtration. Toluene (50 ml) was added, and the mixture was washed with 5% aqueous sodium hydrogen carbonate solution (25 ml×2) and saturated brine (25 ml) and dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was developed by PTLC (chloroform:n-hexane:ethyl acetate=1:1:1), and silica gel containing the object product was stirred with ethyl acetate (100 ml) for 30 min for extraction. The silica gel was filtered off, and the filtrate was concentrated under reduced pressure to give 8-methylnonyl homovanillate (1.25 g, yield 81.5%) as a colorless oil.

reactant | 8-Methyl-1-nonanol | 4.74 mmol, 752 mg | CC(CCCCCCCO)C | C10H22O
reactant | homovanillic acid | 4.98 mmol, 907 mg | C(CC1=CC(OC)=C(O)C=C1)(=O)O | C9H10O4
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 8-methylnonyl homovanillate | 1.25 g, yield 81.5% | C(CC1=CC(OC)=C(O)C=C1)(=O)OCCCCCCCC(C)C | C19H30O4
